US07192978B2
Preparation of 9H-Xanthene-9-carboxylic acid (3R)-1-methylpyrrolidin-3-yl ester
2 g of 9H-Xanthene-9-carboxylic acid (0.0088 mol) were dissolved in 30 ml of CHCl3 (ethanol free). The solution was cooled at 0° C. and 1.08 ml (0.0123 mol) of oxalyl chloride and a drop of DMF was added. The mixture was stirred and allowed to warm to room temperature. After an hour at this temperature the solvents were evaporated and the residue was dissolved in CHCl3 and evaporated again. This procedure was repeated two times. The solid obtained (2.19 g) was dissolved in 20 ml of CHCl3 and added to a solution of 0.975 g (0.0097 mol) of (3R)-1-methylpyrrolidin-3-ol (Intermediate I-19) in 15 ml of CHCl3 cooled at 0–5° C. The reaction mixture was allowed to warm to room temperature and stirred overnight. The solvent was evaporated and the residue was dissolved in toluene and extracted with HCl 2N. The aqueous layer was basified with K2CO3 and extracted with CHCl3. The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness to yield 2.53 g (93%) of the title product as an oil.

reactant | 9H-Xanthene-9-carboxylic acid | 0.0088 mol, 2 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | oxalyl chloride | 0.0123 mol, 1.08 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
reactant | (3R)-1-methylpyrrolidin-3-ol | 0.0097 mol, 0.975 g | CN1C[C@@H](CC1)O | C5H11NO
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 9H-Xanthene-9-carboxylic acid (3R)-1-methylpyrrolidin-3-yl ester | 2.53 g, 93% | CN1C[C@@H](CC1)OC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H19NO3
